US04440964
In a 2-liter flask with stirrer is placed 147 g o-(trifluoromethyl)aniline, 250 g P2O5 and 1 liter CH2Cl2. With vigorous stirring simultaneously and separately, 250 mL dimethyl sulfoxide and 200 g triethyl amine were added dropwise at such a rate as to create gentle reflux; addition time ca 1 hour with reflux at 41°-42° C., and final temp 52° C. Fifteen minutes after completion of addition, temperature was still 51° C., but external heat was applied for 3 hours, then let stand overnight. Monitoring the reaction by glc was only partially successful; there was decrease in starting aniline and an increase in product peak (sulfilimine decomposing on column to ortho-rearranged product). After reaction, 10% caustic was added to fill flask, then layers separated. Caustic layer washed once with more CH2Cl2, then combined organic layers washed with water (salt added). The organic layer was stripped of solvent, heated (in kugelrohr) to ca 140°-150° C. for ca 1/2 hour. The material was distilled through 6" vigreux to give 100 g distillate, bp 60°-100° C. (0.3 mm). A more viscous oil 9.2 g was collected bp 140° C. (0.25-0.45 mm). A second distillation gave 80 g of 2-methylthiomethyl-6-trifluoromethyl aniline, bp 68°-78° C. (0.1 mm Hg).

reactant | o-(trifluoromethyl)aniline | 147 g | FC(C1=C(N)C=CC=C1)(F)F | C7H6F3N
reactant | P2O5 | 250 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | sulfilimine | [SH2]=N | H3NS
reactant | dimethyl sulfoxide | 250 mL | CS(=O)C | C2H6OS
solvent | triethyl amine | 200 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 1 liter | C(Cl)Cl | CH2Cl2
product | 2-methylthiomethyl-6-trifluoromethyl aniline | 80 g | CSCC1=C(N)C(=CC=C1)C(F)(F)F | C9H10F3NS
